US05089498
A mixture of ethyl 2-butyryl-3-ethoxyacrylate (21.4 g, 0.1 mol) and methyl anthranilate (12.9, ml, 0.1 mol) was heated to boiling for 20 minutes, then cooled and triturated with petroleum ether to obtain ethyl 2-butyryl3-(2-carbomethoxyphenylamino)acrylate as a mixture of E/Z isomers (18.0 g, 56%).

reactant | ethyl 2-butyryl-3-ethoxyacrylate | 0.1 mol, 21.4 g | C(CCC)(=O)C(C(=O)OCC)=COCC | C11H18O4
reactant | methyl anthranilate | C(C=1C(N)=CC=CC1)(=O)OC | C8H9NO2
product | ethyl 2-butyryl3-(2-carbomethoxyphenylamino)acrylate | C(CCC)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)C(=O)OC | C17H21NO5
